US08492378B2
3-[3-(trifluoromethyl)phenyl]propanohydrazide
A solution of ethyl 3-[3-(trifluoromethyl)phenyl]propionate (9.85 g, 40.0 mmol) and hydrazine monohydrate (9.70 mL, 200 mmol) in ethanol (50 mL) was heated under reflux overnight. After cooling, the reaction mixture was concentrated under reduced pressure. The residue was diluted with ethyl acetate, washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate) and recrystallized from hexane/ethyl acetate to give the title compound (7.51 g, yield 81%) as colorless crystals.

reactant | ethyl 3-[3-(trifluoromethyl)phenyl]propionate | 40.0 mmol, 9.85 g | FC(C=1C=C(C=CC1)CCC(=O)OCC)(F)F | C12H13F3O2
reactant | hydrazine monohydrate | 200 mmol, 9.70 mL | O.NN
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-[3-(trifluoromethyl)phenyl]propanohydrazide | 7.51 g, yield 81% | FC(C=1C=C(C=CC1)CCC(=O)NN)(F)F | C10H11F3N2O
